US07307073B2
(R)-7-(Methylaminocarbonyl)-2,3,11,11a-tetrahydro-1H,5H-pyrrolo[2,1-c][1,4]benzoxazepine-5-one
A solution of (R)-2,3,11,11a-tetrahydro-1H,5H-pyrrolo[2,1-c][1,4]benzoxazepine-5-one-7-carboxylic acid chloride (0.330 g; 1.24 mmol), prepared as described in Example 17A, starting from the material described in Example 3I, in dichloromethane (3 ml) was added dropwise to a stirred 10% solution of methylamine in tetrahydrofuran. The mixture was stirred at room temperature for a further 1 h and then evaporated to dryness under reduced pressure. The residue was taken up in dichloromethane (20 mL) and washed with 0.5M HCl (2×20 mL). The dichloromethane layer was dried (MgSO4) and solvent evaporated under reduced pressure. Recrystallisation of the crude product from ethylacetate/diethylether gave the title compound (0.262 g) as a white solid. M.p. 186-189° C.; EIMS: m/z=261.0 [M+H]+

reactant | (R)-2,3,11,11a-tetrahydro-1H,5H-pyrrolo[2,1-c][1,4]benzoxazepine-5-one-7-carboxylic acid chloride | 1.24 mmol, 0.330 g | C1CCN2[C@H]1COC1=C(C2=O)C=C(C=C1)C(=O)Cl | C13H12ClNO3
reactant | methylamine | CN | CH5N
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (R)-7-(Methylaminocarbonyl)-2,3,11,11a-tetrahydro-1H,5H-pyrrolo[2,1-c][1,4]benzoxazepine-5-one | 0.262 g | CNC(=O)C=1C=CC2=C(C(N3[C@@H](CO2)CCC3)=O)C1 | C14H16N2O3
